US09302991B2
<Step-2>: (R)-2-propionamido-N-(1-(3-(trifluoromethyl)phenyl)ethyl)pyrimidine-4-carboxamide (Example-274, single enantiomer)
The title compound is prepared from (R)-2-amino-N-(1-(3-(trifluoromethyl)phenyl)ethyl)pyrimidine-4-carboxamide (20 mg, 0.06 mmol, Step-1) and propionyl chloride (18 mg, 0.19 mmol) according to the procedure similar to that described in Step-2 of Example 8.

reactant | (R)-2-amino-N-(1-(3-(trifluoromethyl)phenyl)ethyl)pyrimidine-4-carboxamide | 0.06 mmol, 20 mg | NC1=NC=CC(=N1)C(=O)N[C@H](C)C1=CC(=CC=C1)C(F)(F)F | C14H13F3N4O
reactant | propionyl chloride | 0.19 mmol, 18 mg | C(CC)(=O)Cl | C3H5ClO
product | (R)-2-propionamido-N-(1-(3-(trifluoromethyl)phenyl)ethyl)pyrimidine-4-carboxamide | C(CC)(=O)NC1=NC=CC(=N1)C(=O)N[C@H](C)C1=CC(=CC=C1)C(F)(F)F | C17H17F3N4O2
